US07348318B2
Synthesis of (3S, P (R or S))-3-amino-1-amino(phenylamino)phosphinyl-2-piperidone
Palladium black (10 mg) was added to a solution of (3S, P (R or S))-3-benzyloxycarbonylamino-1-amino(phenylamino)phosphinyl-2-piperidone (71.0 mg, 0.1764 mmol) in methanol (7 mL), and the resulting mixture was stirred overnight at room temperature under a hydrogen atmosphere.

reactant | 3-benzyloxycarbonylamino-1-amino(phenylamino)phosphinyl-2-piperidone | 0.1764 mmol, 71.0 mg | C(C1=CC=CC=C1)OC(=O)NC1(C(N(CCC1)N)=O)P(=O)NC1=CC=CC=C1 | C19H23N4O4P
solvent | methanol | 7 mL | CO | CH4O
catalyst | Palladium black | 10 mg | [Pd] | Pd
product | 3-amino-1-amino(phenylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC1=CC=CC=C1 | C11H17N4O2P
